US04287213
In this preparation 23.18 g (0.085 mol) of 4-(2-trifluoromethyl-4-chlorophenoxy)-benzene and 6.66 g (0.085 mol) of acetyl chloride are admixed with 200 ml of carbon disulfide and then 27.52 g (0.17 mol) of ferric chloride is added and the resulting mixture stirred at room temperature for about 23 hours. The mixture is then washed three times with ice-water, dried over magnesium sulfite and filtered. The filtrate is evaporated to dryness and the residue chromatographed on a silica gel column eluting with hexane; 5 vol.% tetrahydrofuran-hexane; and then 10 vol.% tetrahydrofuran-hexane, affording 1-acetyl-4-(2-trifluoromethyl-4-chlorophenoxy)-benzene.

reactant | 4-(2-trifluoromethyl-4-chlorophenoxy)-benzene | 0.085 mol, 23.18 g | FC(C1=C(OC2=CC=CC=C2)C=CC(=C1)Cl)(F)F | C13H8ClF3O
reactant | acetyl chloride | 0.085 mol, 6.66 g | C(C)(=O)Cl | C2H3ClO
solvent | carbon disulfide | 200 ml | C(=S)=S | CS2
product | 1-acetyl-4-(2-trifluoromethyl-4-chlorophenoxy)-benzene | C(C)(=O)C1=CC=C(C=C1)OC1=C(C=C(C=C1)Cl)C(F)(F)F | C15H10ClF3O2
